US07544697B2
A modification of the method described in Part A of Example 11 was followed. A solution of ethyl 2,4-dioxo-6-phthalimidohexanoate, sodium salt (37.64 g, 0.110 mol) in glacial acetic acid (160 L) was cooled to 10° C. before the addition of ethylhydrazine oxalate (16.52 g, 0.110 mol). During the addition, the reaction temperature was maintained between 9 and 11° C. The reaction was complete in two hours. The crude product, a reddish-orange oil, was treated with diethyl ether (150 mL) to form a solid, which was isolated by filtration to provide 26.5 g of ethyl 1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carboxylate as a tan solid.

reactant | ethyl 2,4-dioxo-6-phthalimidohexanoate | O=C(C(=O)OCC)CC(CCN1C(C=2C(C1=O)=CC=CC2)=O)=O | C16H15NO6
reactant | sodium | 0.110 mol, 37.64 g | [Na] | Na
reactant | ethylhydrazine oxalate | 0.110 mol, 16.52 g | C(C(=O)O)(=O)O.C(C)NN
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | acetic acid | 160 L | C(C)(=O)O | C2H4O2
product | ethyl 1-ethyl-5-(2-phthalimidoethyl)-1H-pyrazole-3-carboxylate | 26.5 g | C(C)N1N=C(C=C1CCN1C(C=2C(C1=O)=CC=CC2)=O)C(=O)OCC | C18H19N3O4
